US07652051B2
Synthesis of methyl 4-(pyridine-3-yloxy)benzoate
3-hydroxypyridine (6.17 g, 64.87 mmol) was dissolved in 100 mL of anhydrous DMF under argon atmosphere. Solid K2CO3 (8.96 g, 64.87 mmol) was added, followed by neat methyl 4-fluorobenzoate (10.0 g, 64.87 mmol). The reaction mixture was heated at 135° C. for 10 hrs. The absence of the starting material was confirmed by LC/MS. The reaction mixture was cooled down to ambient temperature and poured into ca. 500 mL of H2O. The resulting solution was extracted 3 times with ca. 150 mL of EtOAc (during the extraction small volumes of MeOH, Et2O and brine were added to facilitate the separation). Combined EtOAc layers were washed twice with sat. NaHCO3, twice with brine and dried over anhydrous Na2SO4. Solvent was removed in vacuo to give dark-red oil, which was purified by silica gel chromatography using 1:1 mixture of EtOAc/Hexane as eluent to give the title product (4.8 g, 32.3% yield) as yellow solid.

reactant | 3-hydroxypyridine | 64.87 mmol, 6.17 g | OC=1C=NC=CC1 | C5H5NO
reactant | K2CO3 | 64.87 mmol, 8.96 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4-fluorobenzoate | 64.87 mmol, 10.0 g | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
reactant | H2O | ca. 500 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 4-(pyridine-3-yloxy)benzoate | 4.8 g, 32.3% yield | N1=CC(=CC=C1)OC1=CC=C(C(=O)OC)C=C1 | C13H11NO3
